US07977362B2
A solution of trans-methyl 2-aminocycloheptanecarboxylate acetate (652 mg, 2.82 mmol), 4-chlorobenzene sulfonyl chloride (893 mg, 4.23 mmol), and triethylamine (1.18 mL, 8.46 mmol) was stirred in 20 mL tetrahydrofuran for 2 h. The reaction was partitioned between 100 mL diethyl ether and 100 mL brine. The organic layer was dried over sodium sulfate, concentrated, and purified by flash chromatography on 40 g silica gel with 15 to 40% ethyl acetate in hexane to yield trans-methyl 2-(4-chlorophenylsulfonamido)cycloheptanecarboxylate (253 mg, 26%). 1H NMR (400 MHz, CDCl3) δ ppm 7.77-7.79 (1H, m), 7.74-7.76 (1H, m), 7.44-7.47 (1H, m), 7.42-7.44 (1H, m), 5.21 (1H, d, J=8.56 Hz), 3.68 (1H, qd, J=8.48, 3.78 Hz), 3.43 (3H, s), 2.44 (1H, td, J=8.56, 3.27 Hz), 1.75-1.82 (1H, m), 1.56-1.73 (4H, m), 1.34-1.54 (5H, m). LC/MS R.T.=2.89 min; [M−H]+=344.04; [M+Na]+=368.16; [M−H]−=344.04.

reactant | trans-methyl 2-aminocycloheptanecarboxylate acetate | 2.82 mmol, 652 mg | C(C)(=O)O.N[C@H]1[C@@H](CCCCC1)C(=O)OC
reactant | 4-chlorobenzene sulfonyl chloride | 4.23 mmol, 893 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | triethylamine | 8.46 mmol, 1.18 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | trans-methyl 2-(4-chlorophenylsulfonamido)cycloheptanecarboxylate | 253 mg, 26% | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](CCCCC1)C(=O)OC | C15H20ClNO4S
